US07550478B2
3-chloro-7-(1-hydroxypropyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (Compound 342)
3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridine-7-carbaldehyde (25 mg, 0.093 mmol) was dissolved in 4 mL of hot dichloromethane. The solution was cooled to room temperature and ethylmagnesium chloride (0.047 mL of 2.0 M in THF, 0.093 mmol) was added. The reaction was stirred at room temperature for 1.5 hours at which point it was quenched via the addition of saturated aqueous ammonium chloride. The mixture was extracted three times with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via flash chromatography (silica, 5-60% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.80 (d, 1H); 8.52 (d, 1H); 8.21 (d, 1H); 7.73 (dd, 1H); 7.60 (d, 1H); 7.32 (d, 1H); 7.27 (d, 1H); 4.79 (t, 1H); 1.99 (s, 1H); 1.89-1.79 (m, 2H); 0.94 (t, 3H). LRMS (APCI) calc'd for (C17H15ClNO2) [M+H]+, 300.1; found 300.1.

reactant | 3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridine-7-carbaldehyde | 0.093 mmol, 25 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C=O | C15H8ClNO2
reactant | ethylmagnesium chloride | 0.093 mmol, 2.0 M, 0.047 mL | C(C)[Mg]Cl
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-chloro-7-(1-hydroxypropyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(CC)O | C17H14ClNO2
